US05948820
(6) 4-(2-(2-Heptyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone
To a suspension of sodium hydride (90 mg) in dimethylformamide (1 ml), under ice-cooling, a solution of 4-(2-(2-hydroxyphenyl)ethyl)-4-methyl-2-oxazolidinone (0.50 g) in dimethylformamide (2 ml) was added and the mixture was stirred at room temperature for 2 hours. To the solution, a solution of heptyl bromide (0.47 g) in tetrahydrofuran (2 ml) was added and the mixture was stirred at the same temperature for 5.5 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated brine and dried over magnesium sulfate. The solvent was distilled away under reduced pressure and the residue was subjected to silica gel chromatography (eluent; hexane ethyl acetate=1:1) to give the subject compound (0.60 g).

reactant | sodium hydride | 90 mg | [H-].[Na+]
reactant | 4-(2-(2-hydroxyphenyl)ethyl)-4-methyl-2-oxazolidinone | 0.50 g | OC1=C(C=CC=C1)CCC1(NC(OC1)=O)C | C12H15NO3
reactant | heptyl bromide | 0.47 g | C(CCCCCC)Br | C7H15Br
reactant | water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(2-(2-Heptyloxyphenyl)ethyl)-4-methyl-2-oxazolidinone | 0.60 g | C(CCCCCC)OC1=C(C=CC=C1)CCC1(NC(OC1)=O)C | C19H29NO3
